US07425634B2
(69a) 2-(2-(benzyloxy)ethyl)-2-methyl-1,3-dioxolane
A mixture of 4-benzyloxy-2-butanone (10 g, 56.1 mmol), ethylene glycol (40 ml, 718 mmol), triethyl orthoformate (9.3 ml, 55.9 mmol) and p-toluenesulfonic acid monohydrate (290 mg, 1.52 mmol) was stirred at room temperature for 13.5 hours. To the reaction mixture, a saturated aqueous sodium hydrogen carbonate solution (40 ml) was added and the mixture was extracted three times with chloroform (50 ml). The organic layer was dried over anhydrous sodium sulfate and concentrated. The crude product was purified by silica gel column chromatography (NH silica gel, elution solvent: heptane/ethyl acetate=1/0 to 4/1 gradient). Desired fractions were concentrated to obtain the title compound (10.08 g, 80.8% yield) as a colorless oil.

reactant | 4-benzyloxy-2-butanone | 56.1 mmol, 10 g | C(C1=CC=CC=C1)OCCC(C)=O | C11H14O2
reactant | ethylene glycol | 718 mmol, 40 ml | C(CO)O | C2H6O2
reactant | triethyl orthoformate | 55.9 mmol, 9.3 ml | C(OCC)(OCC)OCC | C7H16O3
catalyst | p-toluenesulfonic acid monohydrate | 1.52 mmol, 290 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | sodium hydrogen carbonate | 40 ml | C(O)([O-])=O.[Na+]
product | 2-(2-(benzyloxy)ethyl)-2-methyl-1,3-dioxolane | 10.08 g, 80.8% yield | C(C1=CC=CC=C1)OCCC1(OCCO1)C | C13H18O3
